US07709500B2
Step 2: 2-(Carboxymethyl)-4-fluorobenzoic acid
A suspension of dimethyl [5-fluoro-2-(methoxycarbonyl)phenyl]malonate (1.80 g) in concentrated hydrochloric acid (25 ml) was heated at 110° C. for 48 h. The reaction was cooled and the subtitle compound collected as a white solid by filtration (1.0 g).

reactant | dimethyl [5-fluoro-2-(methoxycarbonyl)phenyl]malonate | 1.80 g | FC=1C=CC(=C(C1)C(C(=O)OC)C(=O)OC)C(=O)OC | C13H13FO6
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 2-(Carboxymethyl)-4-fluorobenzoic acid | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)F | C9H7FO4
